Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1].[C:2]([O:3][O:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([O:3][O:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-5.636999812130001
[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1],4.20814152606
[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3](\[C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])=[C:13]([H:14])[H:15].[H:1][C:2]([H:12])[H:16],1.5534512726299998
[H:1][C:2]#[C:3]/[C:5]([H:6])=[C:7](\[H:8])[C:9]#[C:10][H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]#[C:10][H:11],-1.90922741193
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]=[C:8]([H:9])[H:10],1.94880023662
[C:5]([H:6])#[C:7][C:8]([H:9])[H:10].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-0.258319248001
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:3]([H:4])[H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[C:9]#[C:10][H:11],5.363023421359999
[C:1]#[C:2].[C:3]([H:4])[O:5][C:6]([H:7])[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[O:8][H:9],-6.995946128530001
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:9]>>[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-4.2898986512300015
[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]>>[O:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-3.0627815673
[H:16].[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.56417969495
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12].[O:1],3.10709973645
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10],4.01119075508
[H:3].[O:1]=[C:2]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][C@:2]([H:3])([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-0.211966370825
[H:1][O:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.21957630177
[C:2]([H:3])([H:4])=[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-2.46985993116
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4].[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],3.56025013211
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.55732312421
[C:1]#[C:2][C@@:3]([O:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2].[C:3](=[O:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],1.70468528261
[H:1][O:2][C@:3]1([H:4])[O:5][C:6][C:7]1[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],0.0518528992106
[H:1][O:2][C:3]1[O:4][C:5][C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2][C:3]([O:4][C:5]=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-0.24128694978
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])=[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.73999298037
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][C:2][O:3][C:4]1[C:5]([H:6])([H:7])[C@:8]1([H:9])[C:10][H:11],0.2150824087199999
[H:5].[O:1][C:2]#[C:3][O:4]>>[O:1]=[C:2]=[C:3][O:4][H:5],-4.11018004645
[H:1][C:2].[O:3]=[C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],-5.141571257819999
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],4.58241502109
[C:6]([H:7])#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-0.2141322402409999
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:13]([H:14])([H:15])[H:16],4.45091170962
